### PR TITLE
Aarch64 asid map 

### PR DESCRIPTION
**Pull request by lsf37**
Remove the `VMID` entry from the ASID pool in ASpec and use a global `asid_map` instead, like for ARM. The implementation in Haskell and below is unchanged.

The idea is to remove the VMID entries from kheap so that the infoflow proof does not need to introduce additional kheap infrastructure to show that the VMID is not observable. This means infoflow can for the most part continue to assume kheap equality.

Proofs updated accordingly, with the largest change in Refine where we need to add an `aobjs_of'` parameter to `arch_state_relation` so that we can construct the abstract `asid_map` from the concrete VMID entries in ASID pools. This means generic theories are affected (new interface) and the other architectures need small updates to ignore the additional parameter.

Because it was useful in a few places, I have taken the opportunity to finally implement that option filter for projections that I've mentioned a few times. This is in a separate commit and then used in Refine. There are a few more places where it could be useful, but I have left the rest of the proofs alone for now to reduce noise.

### CODE REVIEW

File: lib/Monads/reader_option/Reader_Option_Monad.thy [hunk 1]
```diff
@@ -39,6 +39,8 @@ definition map_set :: "('a \<Rightarrow> 'b set option) \<Rightarrow> 'a \<Right
 definition opt_pred :: "('a \<Rightarrow> bool) \<Rightarrow> ('b \<Rightarrow> 'a option) \<Rightarrow> ('b \<Rightarrow> bool)" (infixl "|<" 55) where
   "P |< proj \<equiv> (\<lambda>x. case_option False P (proj x))"
 
+definition opt_filter :: "('a \<Rightarrow> bool) \<Rightarrow> 'a \<Rightarrow> 'a option" where
+  "opt_filter P x \<equiv> if P x then Some x else None"
```
Comment (Xaphiosis) [inline lib/Monads/reader_option/Reader_Option_Monad.thy:43]: Interesting that this didn't already have a definition upstream (like option_map or such).

File: lib/Monads/reader_option/Reader_Option_Monad.thy [hunk 2]
```diff
@@ -190,6 +192,101 @@ lemma opt_pred_proj_upd_eq[simp]:
...
+lemma opt_filter_map_apply:
+  "(opt_filter P |> f) x = (if P x then f x else None)"
+  by (auto simp: opt_filter_def opt_map_def)
+
+lemma opt_filter_Some_map_eq:
+  "opt_filter P ||> f = (\<lambda>x. if P x then Some (f x) else None)"
+  by (auto simp: opt_filter_def[abs_def] opt_map_def)
+
+lemma in_opt_filter_eq:
+  "opt_filter P x = Some y \<longleftrightarrow> P x \<and> y = x"
```
Comment (Xaphiosis) [inline lib/Monads/reader_option/Reader_Option_Monad.thy:222]: curious, why the `y = x` ordering?

File: lib/Monads/reader_option/Reader_Option_Monad.thy [hunk 3]
```diff
@@ -190,6 +192,101 @@ lemma opt_pred_proj_upd_eq[simp]:
...
+  "\<not>P x \<Longrightarrow> (opt_filter P) (x := None) = opt_filter P"
+  by (auto simp: opt_filter_def)
+
+lemma opt_filter_apply_None:
+  "\<not>P x \<Longrightarrow> opt_filter P x = None"
+  by (auto simp: opt_filter_def)
+
+lemma opt_filter_apply_Some:
+  "P x \<Longrightarrow> opt_filter P x = Some x"
+  by (auto simp: opt_filter_def)
```
Comment (Xaphiosis) [inline lib/Monads/reader_option/Reader_Option_Monad.thy:287]: Not for this PR, but I wonder how we're to handle these "almost-simp" rules. Obviously they can't be in the simpset in general due to performance, but at the same time having to use the `_apply_None` or `_apply_Some` separately when we've got these monadic things to clean up always feels a bit like we should have a better way. Bundles?

File: proof/invariant-abstract/AARCH64/ArchAcc_AI.thy [hunk 4]
```diff
@@ -794,21 +767,56 @@ lemma set_asid_pool_dom[wp]:
...
+
+lemma set_asid_pool_None_valid_asid_table[wp]:
+  "\<lbrace>valid_asid_table and (\<lambda>s. asid_pools_of s p = Some ap)\<rbrace>
+   set_asid_pool p (ap(asid_low := None))
+   \<lbrace>\<lambda>_. valid_asid_table\<rbrace>"
   unfolding valid_asid_table_def
-  using set_asid_pool_asid_pools_of[wp del]
-  by (wp_pre, wps, wp, clarsimp)
+  supply set_asid_pool_asid_pools_of[wp del] fun_upd_apply[simp del]
+  apply (wp_pre, wps)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchAcc_AI.thy:797]: random question, should wps include hoare_pre?

File: proof/invariant-abstract/AARCH64/ArchInvariants_AI.thy [hunk 5]
```diff
@@ -763,11 +763,12 @@ lemmas hyp_refs_of_simps[simp] = hyp_refs_of_def[split_simps kernel_object.split
 definition state_hyp_refs_of :: "'z::state_ext state \<Rightarrow> obj_ref \<Rightarrow> (obj_ref \<times> reftype) set" where
   "state_hyp_refs_of \<equiv> \<lambda>s p. case_option {} (hyp_refs_of) (kheap s p)"
 
-
-(* Mostly covered by ASIDPool case of valid_vspace_obj and vmid_inv, but we still need to make sure
-   that ASID 0 is never mapped. *)
+(* Compared to ARM we do not duplicate the vspace pointer in the asid_map, but instead use the
+   existing vspace_for_asid function The invariant records that we only allocate a VMID for an
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchInvariants_AI.thy]: missing `.` after `function`.

File: proof/refine/X64/ArchCSpace_R.thy [hunk 6]
```diff
@@ -465,6 +466,12 @@ proof -
     "\<And>P. \<lbrace>\<lambda>s. P (new_irqn s) (new_irqs s)\<rbrace> f
              \<lbrace>\<lambda>rv s. \<exists>irn. interrupt_irq_node s = irn \<and> P irn (interrupt_states s)\<rbrace>"
     by (wp hoare_vcg_ex_lift updates, simp)
+  have g_as_ao'[wp]:
+    "\<And>P. \<lbrace>\<lambda>s'. P (new_as' s') (new_ao' s')\<rbrace> g \<lbrace>\<lambda>_ s'. P (ksArchState s') (aobjs_of' s')\<rbrace>"
+    apply wp_pre
```
Comment (Xaphiosis) [inline proof/refine/X64/ArchCSpace_R.thy]: given that wp goes first, does it need the wp_pre?

File: proof/refine/StateRelationPre.thy [hunk 7]
```diff
@@ -25,4 +25,18 @@ text \<open>
 type_synonym obj_relation_cut = "Structures_A.kernel_object \<Rightarrow> Structures_H.kernel_object \<Rightarrow> bool"
 type_synonym obj_relation_cuts = "(machine_word \<times> obj_relation_cut) set"
 
+text \<open>
+  Arch object projection for predicates that depend on arch objects only.\<close>
```
Comment (Xaphiosis) [inline proof/refine/StateRelationPre.thy]: can't this fit on one line? looks like 80 chars

File: proof/refine/ARM_HYP/ArchStateRelation.thy [hunk 8]
```diff
@@ -175,8 +175,9 @@ definition ghost_relation_wrapper_2 ::
 (* inside Arch locale, we have no need for the wrapper *)
 lemmas ghost_relation_wrapper_def[simp] = ghost_relation_wrapper_2_def
 
-definition arch_state_relation :: "(arch_state \<times> ARM_HYP_H.kernel_state) set" where
-  "arch_state_relation \<equiv> {(s, s') .
+definition arch_state_relation ::
+  "(obj_ref \<rightharpoonup> arch_kernel_object) \<Rightarrow> (arch_state \<times> ARM_HYP_H.kernel_state) set" where
+  "arch_state_relation aobjs \<equiv> {(s, s') .
```
Comment (Xaphiosis) [inline proof/refine/ARM_HYP/ArchStateRelation.thy]: hmm, in this case aobjs is named but unused; would make sense to have a comment (same on other arches where it's unused)

File: proof/refine/AARCH64/ArchDetype_R.thy [hunk 9]
```diff
@@ -267,9 +267,43 @@ end (* detype_locale' *)
...
+   apply (simp add: mapM_storeWord_clear_um[unfolded word_size_def] word_size_def
+                    intvl_range_conv[where 'a=machine_word_len, folded word_bits_def])
+   apply wp
+  apply (clarsimp simp: invs_def valid_state_def valid_irq_states_def clear_um_def cur_tcb_def
+                        valid_machine_state_def)
+  done
+
 (* FIXME arch-split: some of this can be generalised; 3 is same on all arches *)
+(* FIXME: is_aligned base magnitude; magnitude \<ge> 3: both already follow from valid_cap in
+          the abstract precondition *)
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/ArchDetype_R.thy:304]: Now I'm even more confused. What is 3 then? Are you saying this can't be (partly) generalised?

Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchDetype_R.thy:304]: Oh wait, that's just you adding an extra comment. Whoops. But have you figured out what 3 is?

File: proof/refine/ARM_HYP/ArchStateRelation.thy (hunk 8 above)
Comment (Xaphiosis) [reply proof/refine/ARM_HYP/ArchStateRelation.thy]: Also this argument is names `aobjs'` on AARCH64

File: proof/refine/AARCH64/ArchStateRelation.thy [hunk 10]
```diff
@@ -139,16 +190,18 @@ definition ghost_relation_wrapper_2 ::
 (* inside Arch locale, we have no need for the wrapper *)
 lemmas ghost_relation_wrapper_def[simp] = ghost_relation_wrapper_2_def
 
-definition arch_state_relation :: "(arch_state \<times> AARCH64_H.kernel_state) set" where
-  "arch_state_relation \<equiv> {(s, s') .
+definition arch_state_relation ::
+  "(obj_ref \<rightharpoonup> arch_kernel_object) \<Rightarrow> (arch_state \<times> AARCH64_H.kernel_state) set" where
+  "arch_state_relation aobjs' \<equiv> {(s, s') .
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/ArchStateRelation.thy:195]: I'm a bit confused. On other arches that don't use `aobjs'`, the argument is called `aobjs`. I'm also surprised that while this PR is to change the ASID map to be "like ARM", ARM does not seem to use aobjs' in the arch_state_relation. Could you comment on how that worked out that way?

File: proof/refine/AARCH64/ArchVSpace_R.thy [hunk 11]
```diff
@@ -1359,35 +1359,53 @@ lemma mask_is_asid_low_bits_of[simp]:
...
+              pool (ucast asid && mask asid_low_bits) \<noteq> None)"
+  apply (clarsimp simp: vspace_for_asid_def ex_abs_def entry_for_asid_def
+                        pool_for_asid_def entry_for_pool_def if_option_eq
+                        ucast_down_ucast_id is_down)
+  apply (erule state_relationE)
+  apply (fastforce simp: arch_state_relation_def asid_pool_relation_def
+                   dest!: asid_pool_of_ko_at'_cross)
+  done
+
+lemma abs_asid_leq_asidRange[simp]:
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/ArchVSpace_R.thy]: what does the "abs" stand for?

File: proof/refine/AARCH64/ArchVSpace_R.thy [hunk 12]
```diff
@@ -1651,42 +1730,155 @@ lemma invalidate_vmid_entry_entry_for_asid[wp]:
   unfolding invalidate_vmid_entry_def
   by wpsimp
 
+
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/ArchVSpace_R.thy]: extra newline?

File: proof/refine/AARCH64/ArchVSpace_R.thy [hunk 13]
```diff
@@ -1651,42 +1730,155 @@ lemma invalidate_vmid_entry_entry_for_asid[wp]:
...
+  assumes a: "is_ArchObj ob"
+  assumes arch:
+    "\<And>s s'. \<lbrakk> (arch_state s, ksArchState s') \<in> arch_state_relation (aobjs_of' s');
+               typ_at' (koTypeOf (injectKO ob')) ptr s'; obj_at' Q  ptr s'; P s \<rbrakk> \<Longrightarrow>
+              (arch_state s, ksArchState s') \<in>
+                arch_state_relation ((aobjs_of' s')(ptr := aobj_of' (injectKO ob')))"
+  shows      "other_aobj_relation ob (injectKO (ob' :: 'a :: pspace_storable)) \<Longrightarrow>
+  corres dc (obj_at (\<lambda>ko. a_type ko = a_type ob) ptr and obj_at (same_caps ob) ptr and P)
+            (obj_at' (Q :: 'a \<Rightarrow> bool) ptr)
+            (set_object ptr ob) (setObject ptr ob')"
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/ArchVSpace_R.thy]: this indentation does not look right; if there's no room, then `"other_aobj_relation` should migrate to the next line at least

File: proof/refine/AARCH64/ArchVSpace_R.thy [hunk 14]
```diff
@@ -1651,42 +1730,155 @@ lemma invalidate_vmid_entry_entry_for_asid[wp]:
...
+  supply image_cong_simp [cong del] projectKOs[simp del]
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/ArchVSpace_R.thy]: inconsistent, remove space before `[`

File: proof/refine/AARCH64/ArchVSpace_R.thy [hunk 15]
```diff
@@ -1651,42 +1730,155 @@ lemma invalidate_vmid_entry_entry_for_asid[wp]:
...
+  apply (prop_tac "koTypeOf (injectKO ob') \<noteq> TCBT")
+   subgoal
+     by (clarsimp simp: other_aobj_relation_def; cases ob; cases "injectKO ob'";
+         simp split: arch_kernel_obj.split_asm)
+  by (fastforce dest: tcbs_of'_non_tcb_update)
+
+lemma setObject_ASIDPool_None_corres[corres]:
+  "\<lbrakk> p = p'; asid_pool_relation pool (asidpool.ASIDPool pool');
+     asid_low' = ucast (asid_low_bits_of asid) \<rbrakk> \<Longrightarrow>
+  corres dc ((\<lambda>s. asid_pools_of s p = Some pool \<and> asid_table s (asid_high_bits_of asid) = Some p \<and>
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/ArchVSpace_R.thy]: I think these are old and you're mostly moving them, but while we're here, indentation on `corres`

File: lib/Monads/reader_option/Reader_Option_Monad.thy (hunk 2 above)
Comment (lsf37) [reply lib/Monads/reader_option/Reader_Option_Monad.thy:222]: If you use this in rewriting, you would usually want the `y` to disappear, not the `x`, because the `y` in `Some y` will at least often (not always) be a generated name.

File: proof/invariant-abstract/AARCH64/ArchAcc_AI.thy (hunk 4 above)
Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchAcc_AI.thy:797]: I've been asking myself that many times. Probably yes. At least I can't see any reason why it would hurt.

File: lib/Monads/reader_option/Reader_Option_Monad.thy (hunk 3 above)
Comment (lsf37) [reply lib/Monads/reader_option/Reader_Option_Monad.thy:287]: There is the `lemmas opt_filter_apply` set. We could also do a bundle, but I didn't think it would be used that extremely often.

File: proof/refine/StateRelationPre.thy (hunk 7 above)
Comment (lsf37) [reply proof/refine/StateRelationPre.thy]: Might fit, will try.

File: proof/refine/AARCH64/ArchDetype_R.thy (hunk 9 above)
Comment (lsf37) [reply proof/refine/AARCH64/ArchDetype_R.thy:304]: Unfortunately not, only that it is redundant. It smells like word_size or something like that, but I'm not sure.

File: proof/refine/X64/ArchCSpace_R.thy (hunk 6 above)
Comment (lsf37) [reply proof/refine/X64/ArchCSpace_R.thy]: Will check, can possibly go, yes.

File: proof/refine/AARCH64/ArchStateRelation.thy (hunk 10 above)
Comment (lsf37) [reply proof/refine/AARCH64/ArchStateRelation.thy:195]: It should indeed just be called `aobjs'` everywhere. `aobjs` would be the ASpec name.

On ARM, the entire asid_map thing is pulled all the way down to Haskell, so the state relation between ASpec and ExecSpec doesn't need the heap, because it can just compare the two asid_map functions. The actual asid_map reasoning is happening in CRefine there, which is not a good place to do it, but that's what we did.

File: proof/refine/AARCH64/ArchVSpace_R.thy (hunk 13 above)
Comment (lsf37) [reply proof/refine/AARCH64/ArchVSpace_R.thy]: yes, that does indeed look terrible. I hope that was copy/paste or moved..

File: proof/refine/AARCH64/ArchVSpace_R.thy (hunk 11 above)
Comment (lsf37) [reply proof/refine/AARCH64/ArchVSpace_R.thy]: abstract asid (of type AARCH64_A.asid)

Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchVSpace_R.thy]: confusing. after word proof trauma I keep thinking of rep/abs, never even occurred to me it could refer to abstract spec

Comment (lsf37) [reply proof/refine/AARCH64/ArchVSpace_R.thy]: right, I didn't even think of that. Happy to tweak if you have a good idea.

Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchVSpace_R.thy]: is AARCH64_H.asid a different type? hmm. recently something like this came up and we ended up with a `_H_` in the name... I dunno, does `ucast_asid_A_le_asidRange` sound plausible? If this lemma is unlikely to appear for the haskell one, then `ucast_asid_le_asidRange` is probably fine anyway.

Comment (lsf37) [reply proof/refine/AARCH64/ArchVSpace_R.thy]: yeah, `ucast_asid_le_asidRange` sounds sufficient, I'll go with that

File: proof/invariant-abstract/AARCH64/ArchAcc_AI.thy (hunk 4 above)
Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchAcc_AI.thy:797]: https://github.com/seL4/l4v/issues/1019

File: proof/refine/X64/ArchCSpace_R.thy (hunk 6 above)
Comment (lsf37) [reply proof/refine/X64/ArchCSpace_R.thy]: That does in deed work.

**Review by Xaphiosis — APPROVED** [review]
Seems fine now
